US05658902
Step 3: 6-iodo-2-trifluoromethyl-4-chloroquinazoline
6-iodo-2-trifluoromethyl-3H-quinazolin-4-one (3.1 g, 9.1 mmole) was mixed with 20 mL of POCl3, heated to reflux for 3 h, removed most of unreacted POCl3 under vacuo. The residue was extracted with 15 mL of NaHCO3 (sat) and 200 mL of ether, ether layer was dried with MgSO4 and concentrated to give the light yellow solid 3.05 g, mp 145°-146° C., MS (CI): m/z 359 (MH)+.

reactant | 6-iodo-2-trifluoromethyl-3H-quinazolin-4-one | 9.1 mmole, 3.1 g | IC=1C=C2C(NC(=NC2=CC1)C(F)(F)F)=O | C9H4F3IN2O
reactant | POCl3 | 20 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 6-iodo-2-trifluoromethyl-4-chloroquinazoline | 3.05 g | IC=1C=C2C(=NC(=NC2=CC1)C(F)(F)F)Cl | C9H3ClF3IN2
